US09290468B2
Step 2: 1-allyl-N-(4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]oxazol-6-yl)cyclopropane-1-sulfonamide
To a solution of 7-((1-allylcyclopropyl)sulfonyl)-4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d]oxazol-6(7H)-one (120 mg, 0.23 mmol) in THF (10 mL) was added potassium trimethylsilanolate (48 mg, 0.35 mmol). The reaction was stirred at room temperature for 1 h and quenched with saturated NH4Cl (aq.). The aqueous layer was extracted with EA (10 mL×2). The combined organic phase was washed with brine (10 mL), dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (petroleum ether/ethyl acetate, 5:1-3:1, v/v) to give the desired product (100 mg, 87.0% yield). 1H NMR (400 MHz, CDCl3): δ 8.09 (s, 1H), 7.99 (s, 1H), 7.42 (m, 1H), 7.31-7.25 (m, 1H), 6.80 (s, 1H), 6.43-6.35 (m, 1H), 6.21 (s, 1H), 5.85-5.70 (m, 1H), 5.22-5.14 (m, 2H), 2.83 (d, 2H), 1.28-1.20 (m, 2H), 0.87-0.80 (m, 2H).

reactant | 7-((1-allylcyclopropyl)sulfonyl)-4-fluoro-5-(2-fluoro-4-iodophenyl)-5H-imidazo[4′,5′:4,5]benzo[1,2-d]oxazol-6(7H)-one | 0.23 mmol, 120 mg | C(C=C)C1(CC1)S(=O)(=O)N1C(N(C=2C1=CC1=C(N=CO1)C2F)C2=C(C=C(C=C2)I)F)=O | C20H14F2IN3O4S
reactant | potassium trimethylsilanolate | 0.35 mmol, 48 mg | C[Si]([O-])(C)C.[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-allyl-N-(4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]oxazol-6-yl)cyclopropane-1-sulfonamide | 100 mg, 87.0% yield | C(C=C)C1(CC1)S(=O)(=O)NC1=CC2=C(N=CO2)C(=C1NC1=C(C=C(C=C1)I)F)F | C19H16F2IN3O3S
